US07517910B2
ethyl 3-{2-fluoro-4-[(4-{[3-(4-fluorophenyl)-5-(2-phenylethyl)-1H-pyrazol-1-yl]methyl}benzyl)oxy]phenyl}propanoate
To a solution of 3-(4-fluorophenyl)-5-(2-phenylethyl)-1H-pyrazole (300 mg, 1.1 mmol) in N,N-dimethylformamide (5 mL) was added sodium hydride (60% in oil, 40 mg, 1.0 mmol) at 0° C., and the mixture was allowed to warm to room temperature and stirred for 30 min. Ethyl 3-(4-{[4-(chloromethyl)benzyl]oxy}-2-fluorophenyl)propanoate (350 mg, 1.0 mmol) was added to the reaction mixture, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into 1 N hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried using a Presep Dehydration tube (Manufactured by Wako Pure Chemical Industries, Ltd.), and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=19:1-1:1) to give the title compound as a yellow oil. 1H NMR (CDCl3) δ: 1.26 (3H, t, J=7.2 Hz), 2.56 (2H, t, J=7.6 Hz), 2.78-2.93 (6H, m), 4.12 (2H, q, J=7.2 Hz), 4.98 (2H, s), 5.24 (2H, s), 6.37 (1H, s), 6.59-6.68 (2H, m), 7.03-7.13 (7H, m), 7.19-7.37 (5H, m), 7.77 (2H, dd, J=9.0, 5.5 Hz).

reactant | 3-(4-fluorophenyl)-5-(2-phenylethyl)-1H-pyrazole | 1.1 mmol, 300 mg | FC1=CC=C(C=C1)C1=NNC(=C1)CCC1=CC=CC=C1 | C17H15FN2
reactant | sodium hydride | 1.0 mmol, 40 mg | [H-].[Na+]
reactant | Ethyl 3-(4-{[4-(chloromethyl)benzyl]oxy}-2-fluorophenyl)propanoate | 1.0 mmol, 350 mg | ClCC1=CC=C(COC2=CC(=C(C=C2)CCC(=O)OCC)F)C=C1 | C19H20ClFO3
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | ethyl 3-{2-fluoro-4-[(4-{[3-(4-fluorophenyl)-5-(2-phenylethyl)-1H-pyrazol-1-yl]methyl}benzyl)oxy]phenyl}propanoate | FC1=C(C=CC(=C1)OCC1=CC=C(C=C1)CN1N=C(C=C1CCC1=CC=CC=C1)C1=CC=C(C=C1)F)CCC(=O)OCC | C36H34F2N2O3
